US04367234
2-(2-Chloro-6-methoxyphenyl)-2-formoxyacetamide (10 g.) was dissolved in 50 ml. of ethyl acetate by brief warming. The resulting solution was equilibrated with 30 ml. of saturated sodium bicarbonate by stirring for 30 minutes. The ethyl acetate layer was separated, dried over anhydrous magnesium sulfate, treated with activated carbon, filtered through a bed of diatomaceous earth and concentrated in vacuo to a foam. Trituration with hexane gave 2-(2-chloro-6-methoxyphenyl)-2-hydroxyacetamide [6.7 g., pnmr/CDCl3 /delta: 7.9 ppm peak gone, includes 2 doublets between 5.1 and 5.9 ppm (OH-CH splitting) which collapse to a singlet at 5.6 ppm (CH) on D2O exchange].

reactant | 2-(2-Chloro-6-methoxyphenyl)-2-formoxyacetamide | 10 g | ClC1=C(C(=CC=C1)OC)C(C(=O)N)OC=O | C10H10ClNO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-chloro-6-methoxyphenyl)-2-hydroxyacetamide | ClC1=C(C(=CC=C1)OC)C(C(=O)N)O | C9H10ClNO3
